US04922021
A mixture of 0.3 g (1.2 mmoles) of 1-(N-ethyl-acetamido)-2-(2,6-dimethylphenyl-amino)-propane and 5 ml of a 20% aqueous hydrochloric acid solution is boiled for 3 hours. The solvent is evaporated, and the residue is dissolved in 30 ml of water. The solution is washed five times with 5 ml of chloroform, each, and then the solvent is evaporated. The residue is crystallized from a mixture of chloroform and diethyl ether to obtain 0.14 g (56%) of 1-ethylamino-2-(2,6-dimethylphenyl-amino)-propane dihydrochloride; m.p.: 155°-157° C.

reactant | 1-(N-ethyl-acetamido)-2-(2,6-dimethylphenyl-amino)-propane | 1.2 mmoles, 0.3 g | C(C)N(C(C)=O)CC(C)NC1=C(C=CC=C1C)C | C15H24N2O
reactant | hydrochloric acid | Cl | ClH
product | 1-ethylamino-2-(2,6-dimethylphenyl-amino)-propane dihydrochloride | 0.14 g, 56% | Cl.Cl.C(C)NCC(C)NC1=C(C=CC=C1C)C | InChI=1S/C13H22N2.2ClH/c1-5-14-9-12(4)15-13-10(2)7-6-8-11(13)3;;/h6-8,12,14-15H,5,9H2,1-4H3;2*1H
